US07919506B2
Step B: 3-Bromo-5-(trifluoromethyl)benzoic acid
To a stirred suspension of 3-amino-5-(trifluoromethyl)benzoic acid (7.90 gm, 38.5 mmol) in a mixture of hydrobromic acid (43% w/v, 100 mL) and water (100 mL) at 0° C. was slowly added a solution of sodium nitrite (7.97 gm, 0.116 mol) in water (50 mL). After 1 hour the inhomogeneous yellow liquid was added to a solution of copper (II) bromide (16.44 gm, 0.115 mol) in water (100 mL) and the mixture was stirred at room temperature for 16 hours. The mixture was extracted with diethyl ether (250 mL), the aqueous layer was separated and extracted with diethyl ether (3×75 mL). The combined organic layers were dried with anhydrous sodium sulfate and the solvent removed under vacuum to give the title compound as a yellow solid (9.0 gm, 87%) which was used in the following reaction without further purification.

reactant | 3-amino-5-(trifluoromethyl)benzoic acid | 38.5 mmol, 7.90 gm | NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO2
reactant | sodium nitrite | 0.116 mol, 7.97 gm | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | water | 100 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | copper (II) bromide | 0.115 mol, 16.44 gm | [Cu](Br)Br
product | 3-Bromo-5-(trifluoromethyl)benzoic acid | 9.0 gm, 87% | BrC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4BrF3O2
